US04460580
After adding about 5 g of Raney nickel catalyst, a solution of 25 g of 2,3-dihydro-2,2-dimethyl-7-(2-oxo-propoxy)-4H-1,3-benzoxazin-4-one in 500 ml of methanol is introduced into an autoclave and ammonia gas is then injected until the pressure is 5 bars. The solution is then hydrogenated at 50° and a hydrogen pressure of 100 bars until the reaction has ceased. After filtering off the catalyst and evaporating the solution, crude 4-(2-amino-propoxy)-salicylamide is obtained, which after recrystallisation from methanol melts at 185°-187°.

reactant | 2,3-dihydro-2,2-dimethyl-7-(2-oxo-propoxy)-4H-1,3-benzoxazin-4-one | 25 g | CC1(OC2=C(C(N1)=O)C=CC(=C2)OCC(C)=O)C | C13H15NO4
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | about 5 g | [Ni] | Ni
solvent | methanol | 500 ml | CO | CH4O
product | 4-(2-amino-propoxy)-salicylamide | NC(COC=1C=C(C(C(=O)N)=CC1)O)C | C10H14N2O3
